US08859580B2
5-Methoxy-3-methoxycarbonylmethyl-indan-1-yl-ammonium chloride
A mixture of 10% palladium on carbon (3.0 g), (3-hydroxyimino-6-methoxy-indan-1-yl)-acetic acid methyl ester (12.5 g), and concentrated hydrochloric acid (4.7 mL) in methanol (150 mL) is stirred under hydrogen atmosphere at room temperature overnight. The mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is azeotropically dried using toluene and washed with diisopropylether to give the product as a white solid after drying at 50° C.

reactant | (3-hydroxyimino-6-methoxy-indan-1-yl)-acetic acid methyl ester | 12.5 g | COC(CC1CC(C2=CC=C(C=C12)OC)=NO)=O | C13H15NO4
reactant | hydrochloric acid | 4.7 mL | Cl | ClH
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
product | 5-Methoxy-3-methoxycarbonylmethyl-indan-1-yl-ammonium chloride | [Cl-].COC=1C=C2C(CC(C2=CC1)[NH3+])CC(=O)OC | InChI=1S/C13H17NO3.ClH/c1-16-9-3-4-10-11(7-9)8(5-12(10)14)6-13(15)17-2;/h3-4,7-8,12H,5-6,14H2,1-2H3;1H
